US07393873B2
Step 3: Methyl 2-{[2-({[4-(acetylamino)phenyl]sulfonyl}amino)phenyl]thio}benzoate
A solution of methyl 2-[(2-aminophenyl)thio]benzoate (0.444 g, 1.71 mmol) and 4-(acetylamino)benzenesulfonyl chloride (0.440 g, 1.88 mmol) in pyridine (1.6 mL) was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate and washed with 0.5 N HCl (×2), water (×2), half brine and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography eluted with 1-5% MeOH in DCM to provide the title compound. MS (ES, M+H+): 457.2. 1H NMR (400 MHz, CD3OD) δ 7.92 (bd, J=8 Hz, 1H), 7.75 (bd, J=8 Hz, 1H), 7.55 (bd, J=9.2 Hz, 2H), 7.50-7.44 (m, 3H), 7.42 (bd, J=8 Hz, 1H), 7.18 (bt, J=7.6 Hz, 1H), 7.14 (bt, J=7.6 Hz, 1H), 7.05 (bt, J=8 Hz, 1H), 6.23 (bd, J=8 Hz, 1H), 3.95 (s, 3H), 2.14 (s, 3).

reactant | methyl 2-[(2-aminophenyl)thio]benzoate | 1.71 mmol, 0.444 g | NC1=C(C=CC=C1)SC1=C(C(=O)OC)C=CC=C1 | C14H13NO2S
reactant | 4-(acetylamino)benzenesulfonyl chloride | 1.88 mmol, 0.440 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
solvent | pyridine | 1.6 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-{[2-({[4-(acetylamino)phenyl]sulfonyl}amino)phenyl]thio}benzoate | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)SC1=C(C(=O)OC)C=CC=C1 | C22H20N2O5S2
